US05696129
(1-Butyl-4-piperidinyl)methyl 3,4-dihydro-2H-pyrano[2,3-b]indolizine-10-carboxylate
A stirred solution of (1-butyl-4-piperidinyl)methanol (125 mg, 0.72 mmole) in dry THF (5 ml) at 5° C. under argon was treated with 1.5M methyllithium in ether (0.35 ml, 0.50 mmole). After 10 minutes, a solution of ethyl 3,4-dihydro-2H-pyrano[2,3-b]indolizine-10-carboxylate (55 mg, 0.22 mmole) in dry THF (5 ml) was added and the mixture heated under reflux for 3 h. The mixture was then allowed to cool and concentrated in vacuo. The residue was treated with 10% Na2CO3 solution (10 ml) and extracted with ethyl acetate (2×40 ml). The combined extracts were dried (Na2SO4) and concentrated in vacuo to leave a yellow oil, which was chromatographed on silica gel eluting with 3% methanol/chloroform to afford the title compound as a pale pink oil (65 mg, 78%).

reactant | (1-butyl-4-piperidinyl)methanol | 0.72 mmole, 125 mg | C(CCC)N1CCC(CC1)CO | C10H21NO
reactant | methyllithium | 1.5M | C[Li]
reactant | ether | 0.50 mmole, 0.35 ml | CCOCC | C4H10O
reactant | ethyl 3,4-dihydro-2H-pyrano[2,3-b]indolizine-10-carboxylate | 0.22 mmole, 55 mg | O1CCCC2=C1C(=C1C=CC=CN21)C(=O)OCC | C14H15NO3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (1-Butyl-4-piperidinyl)methyl 3,4-dihydro-2H-pyrano[2,3-b]indolizine-10-carboxylate | 65 mg, 78% | O1CCCC2=C1C(=C1C=CC=CN21)C(=O)OCC2CCN(CC2)CCCC | C22H30N2O3
